Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
1.Hyperparathyroidism.
2.Substernal goiter.

 
Major Surgical or Invasive Procedure:
Resection of substernal goiter on the left via cervical approach 
and removal of enlarged left parathyroid gland.

 
History of Present Illness:
This patient presented with hyperparathyroidism and goiter.  
Preoperatively, she was localized by ultrasound and 4D CAT scan 
and it appeared that she had a large left-sided parathyroid 
lesion as well as a substernal goiter.

 
Social History:
___
Family History:
There is no known family history of hyperparathyroidism or other
endocrine syndromes.
 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric. On CPAP. Obese neck, incision CDI. 
No swelling or signs of hematoma noted
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L radial/DP
 
Pertinent Results:
___ 07:05AM BLOOD Calcium-8.8
___ 01:03PM BLOOD PTH-15
___ 09:59AM BLOOD ___-115*
 
Brief Hospital Course:
___ with hyperparathyroidism and goiter s/p parathyroidectomy 
and left thyroidectomy. Patient tolerated the procedure. Refer 
to operative report dictated separately. Postoperatively patient 
was transferred to the floor overnight for observation. 
Postoperatively patient doing well, complaining of mild pain 
around the incision site. Denies no nausea, vomiting, SOB, CP. 
POD #1 calcium 8.8, patient had no signs and symptoms of 
hypocalcemia. Patient reports pain with swallowing and taking 
Tylenol as needed. Her diet was advanced as tolerated and she 
was voiding and ambulating independently. Patient was discharged 
home with appropriate follow-up instructions.
 
Medications on Admission:
FLUoxetine 40 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every four (4) hours Disp #*30 Tablet 
Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*10 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: for floor
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  FLUoxetine 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Hyperparathyroidism.
2.  Substernal goiter.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Ms. ___,
You were admitted to the inpatient general surgery unit 
overnight for observation following your surgery. The following 
is a summary of your discharge instructions: 

Diet: You may resume your regular home diet without restriction. 
You 
should stick to foods that do not upset your stomach. You may 
need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Medications:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen (Tylenol) 
or ibuprofen (Motrin)for as directed for pain. 

Symptoms of low calcium:
Your calcium level is normal at discharge and no calcium 
supplement is needed. However, monitor for symptoms of low 
Calcium such as numbness or tingling around mouth,fingertips or 
muscle cramps in your legs. If you develop symptoms immediately 
take TUMS 4 chewable tablets for relief of symptoms. If your 
symptoms persists then call Dr. ___ phone for 
advice or if you have severe symptoms go to the emergency room. 

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a 
dressing over the wound. Do not apply creams or ointments. Do 
not submerge the wound in a swimming pool or bath until cleared 
at your follow up visit. Do  not pull off the steri strip 
tapes--these will fall off by themselves over the next ___ 
weeks.

Thank you for allowing us to participate in your care.
Your ___ Care Team

 
Followup Instructions:
___